US05478945
A mixture of 4-cyanobenzoyl chloride (166.5 g), ethyl 2-amino-4-methylthiazole-5-carboxylate hydrochloride (224.0 g) and pyridine (2000 ml) was stirred at room temperature for 70 minutes. The precipitated crystals were collected by filtration, and washed with 3% hydrochloric acid and water to give ethyl 2-(4-cyanobenzoylamino)-4-methylthiazole-5-carboxylate (262.0 g).

reactant | 4-cyanobenzoyl chloride | 166.5 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | ethyl 2-amino-4-methylthiazole-5-carboxylate hydrochloride | 224.0 g | Cl.NC=1SC(=C(N1)C)C(=O)OCC
solvent | pyridine | 2000 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 2-(4-cyanobenzoylamino)-4-methylthiazole-5-carboxylate | 262.0 g | C(#N)C1=CC=C(C(=O)NC=2SC(=C(N2)C)C(=O)OCC)C=C1 | C15H13N3O3S
